US09315521B2
To a solution of (2,4-dibromo-1,3-thiazol-5-yl)methanol (2.64 g, 9.6 mmol) and imidazole (1.6 g, 24 mmol) in DMF (15 mL) was added a solution of tert-butyl(chloro)dimethylsilane (1.7 g, 11.5 mmol) in DMF (15 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was poured in water (400 mL), and the resultant mixture was extracted with EtOAc (3×50 mL). The organic extracts were combined, extracted with brine (2×150 mL), dried over MgSO4, filtered, evaporated, and dried in vacuo, affording 2,4-dibromo-5-{[(tert-butyldimethylsilyl)oxy]methyl}-1,3-thiazole (3.44 g, 93%). The product was used without further purification.

reactant | (2,4-dibromo-1,3-thiazol-5-yl)methanol | 9.6 mmol, 2.64 g | BrC=1SC(=C(N1)Br)CO | C4H3Br2NOS
reactant | imidazole | 24 mmol, 1.6 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(chloro)dimethylsilane | 11.5 mmol, 1.7 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | 2,4-dibromo-5-{[(tert-butyldimethylsilyl)oxy]methyl}-1,3-thiazole | 3.44 g, 93% | BrC=1SC(=C(N1)Br)CO[Si](C)(C)C(C)(C)C | C10H17Br2NOSSi
